US07557105B2
Step 1.1: 2-Amino-4-nitrobenzenemethanol
A stirred solution of 2-amino-4-nitrobenzoic acid (Aldrich; 18.2 g, 100 mmol) in dry THF (500 mL) at 20° C., is treated with a solution of borane-THF complex (BH3-THF; Fluka; 100 mL of 1.0 M), dropwise over 45 min to regulate the gas evolution. The mixture is then heated at 65° C. for 2 h. The stirred mixture is then cooled to 0° C., treated with water (20 mL) and warmed to RT. Upon the cessation of gas evolution, hydrochloric acid (20 mL of 12 M) is added and the mixture is then heated at 65° C. for 30 min. The cooled mixture is then concentrated to a volume of circa 150 mL by rotary evaporation under reduced pressure to give a suspension. The suspension is filtered and the precipitate is redissolved in ethyl acetate (500 mL) and washed with saturated aqueous sodium hydrogen carbonate (2×150 mL). The solution is dried (Na2SO4), filtered and the solvent is evaporated off under reduced pressure to yield the crude product which is purified by recrystallisation from ethyl acetate-hexane to give the title compound as a yellow crystalline solid, m.p. 126-128° C.

reactant | 2-amino-4-nitrobenzoic acid | 100 mmol, 18.2 g | NC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H6N2O4
reactant | borane THF | 1.0 M, 100 mL | B.C1CCOC1
reactant | water | 20 mL | O | H2O
reactant | hydrochloric acid | 12 M, 20 mL | Cl | ClH
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 2-Amino-4-nitrobenzenemethanol | NC1=C(C=CC(=C1)[N+](=O)[O-])CO | C7H8N2O3
